US04282242
1-Methyl-4,5-bis(phenylthio)pyrrole-2-carboxylic Acid
By replacing 1-methylpyrrole-2-carboxylic acid with an equivalent amount of 1-ethylpyrrole-2-carboxylic acid, the procedure of this example produces 1-ethyl-4,5-bis-(phenylthio)pyrrole-2-carboxylic acid.

reactant | 1-methylpyrrole-2-carboxylic acid | CN1C(=CC=C1)C(=O)O | C6H7NO2
reactant | 1-ethylpyrrole-2-carboxylic acid | C(C)N1C(=CC=C1)C(=O)O | C7H9NO2
reactant | 1-ethyl-4,5-bis-(phenylthio)pyrrole-2-carboxylic acid | C(C)N1C(=CC(=C1SC1=CC=CC=C1)SC1=CC=CC=C1)C(=O)O | C19H17NO2S2
product | 1-Methyl-4,5-bis(phenylthio)pyrrole-2-carboxylic Acid | CN1C(=CC(=C1SC1=CC=CC=C1)SC1=CC=CC=C1)C(=O)O | C18H15NO2S2
